US07626042B2
(2) 5-Bromo-N-{3,5-bis[(1,1-dimethyl)ethyl]phenyl}-2-[(morpholinocarbonyl)oxy]-benzamide(Compound No. 90)
Using 5-bromo-N-{3,5-bis[(1,1-dimethyl)ethyl]phenyl}-2-hydroxybenzamide and morpholine-4-carbonyl chloride as the raw materials, the same operation as the example 71 gave the title compound.

reactant | 5-bromo-N-{3,5-bis[(1,1-dimethyl)ethyl]phenyl}-2-hydroxybenzamide | BrC=1C=CC(=C(C(=O)NC2=CC(=CC(=C2)C(C)(C)C)C(C)(C)C)C1)O | C21H26BrNO2
reactant | morpholine-4-carbonyl chloride | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
product | 5-Bromo-N-{3,5-bis[(1,1-dimethyl)ethyl]phenyl}-2-[(morpholinocarbonyl)oxy]-benzamide | Yield: 93.6% | BrC=1C=CC(=C(C(=O)NC2=CC(=CC(=C2)C(C)(C)C)C(C)(C)C)C1)OC(=O)N1CCOCC1 | C26H33BrN2O4
